US04358307
2,6,7-Trichloroquinoxaline was reacted with 4-(N-methylamino)phenol sulfate, following essentially the same procedure as that described in Example 1 Part (a), to give 4-[N-methyl-N-(6,7-dichloro-2-quinoxalinyl)amino]phenol. Proton magnetic resonance spectrum (d6 -acetone; δ in ppm): 8.25 (1H, s, quinoxaline hetero-ring proton); 8.0 (1H, s, quinoxaline benzo-ring proton); 7.9 (1H, s, quinoxaline benzo-ring proton); 7.15 (4H, m, phenoxy protons; 3.55 (3H, s, N-CH3).

reactant | 2,6,7-Trichloroquinoxaline | ClC1=NC2=CC(=C(C=C2N=C1)Cl)Cl | C8H3Cl3N2
reactant | 4-(N-methylamino)phenol sulfate | S(=O)(=O)(O)OC1=CC=C(C=C1)NC | C7H9NO4S
product | 4-[N-methyl-N-(6,7-dichloro-2-quinoxalinyl)amino]phenol | CN(C1=NC2=CC(=C(C=C2N=C1)Cl)Cl)C1=CC=C(C=C1)O | C15H11Cl2N3O
